US07517940B2
4-(4-(cyclohexylamino)benzyl)-N-cyclohexylbenzeneamine (Compound 1)
30 ml of toluene was added to 4.000 g (20.175 mmol) of 4,4-methylenedianiline, 15.839 g (161.396 mmol) of cyclohexanone, and 10.0 g of molecular sieves (4 Å). The mixture was reacted at 100° C. for 2 days. The mixture was cooled to room temperature, molecular sieves were filtered, and dried in a vacuum at 60° C. to prepare 4-(4-(cyclohexylideneamino)benzyl)-N-cyclohexylidenebenzeneamine. The obtained product was dissolved in 60 ml of methanol, 4.576 g (121.047 mmol) of sodium borohydride was added thereto, and the mixture was reacted at room temperature for 2 hours. Then, the mixture was neutralized with 80 ml of 1 N KOH. An aqueous layer was extracted twice with 60 ml of M.C, and dried with MgSO4. Then, the obtained product was recrystallized in hexane and ethylacetate. As a result, 3.765 g of white solid product (Compound 1) was obtained (Yield: 51%).

reactant | 4,4-methylenedianiline | 20.175 mmol, 4.000 g | C1=CC(=CC=C1CC2=CC=C(C=C2)N)N | C13H14N2
reactant | cyclohexanone | 161.396 mmol, 15.839 g | C1(CCCCC1)=O | C6H10O
reactant | sodium borohydride | 121.047 mmol, 4.576 g | [BH4-].[Na+]
reactant | KOH | 1 N, 80 ml | [OH-].[K+]
solvent | methanol | 60 ml | CO | CH4O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-(cyclohexylamino)benzyl)-N-cyclohexylbenzeneamine | 3.765 g, Yield: 51% | C1(CCCCC1)NC1=CC=C(CC2=CC=C(C=C2)NC2CCCCC2)C=C1 | C25H34N2
